US05166155
Under a nitrogen atmosphere sodium (0.13 g, 5.62 mmol) was dissolved in 25 ml of abs. ethanol and 6,8-dichloroquinoxalin-2(1H)-one (1.10 g, 5.11 mmol) was added. The mixture was refluxed for 20 min., and ethyl iodoacetate (0.729 ml, 6.13 mmol) was added. The reaction mixture was refluxed for 72 h, cooled to room temperature, then poured onto crushed ice and acidified by dilute hydrochloric acid (pH=2). The precipitated compound was extracted with dichloromethane (4×30 ml) and purified by column chromatography on silica gel (eluent 10% THF in heptane) to give 1-ethoxycarbonylmethyl-6,8-dichloroquinoxalin-2(1H)-one. 1H-NMR (DMSO-d6):δ1.23 (t, 3H), 4.22 (q, 2H), 5.29 (s, 2H), 7.97 (dd, 2H), 8.45 (s, 1H).

reactant | sodium | 5.62 mmol, 0.13 g | [Na] | Na
reactant | 6,8-dichloroquinoxalin-2(1H)-one | 5.11 mmol, 1.10 g | ClC=1C=C2N=CC(NC2=C(C1)Cl)=O | C8H4Cl2N2O
reactant | ethyl iodoacetate | 6.13 mmol, 0.729 ml | ICC(=O)OCC | C4H7IO2
reactant | hydrochloric acid | pH=2 | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-ethoxycarbonylmethyl-6,8-dichloroquinoxalin-2(1H)-one | C(C)OC(=O)CN1C(C=NC2=CC(=CC(=C12)Cl)Cl)=O | C12H10Cl2N2O3
